US07144876B2
{2-Chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenylamino}-acetic acid ethyl ester
To a 10 mL microwave reaction flask reaction charged with a magnetic stir bar, was added 2-chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenylamine (0.100 g, 0.320 mmol), anhydrous ethanol (1.3 mL), bromo ethylacetate (0.241 g, 1.44 mmol) and triethylamine (67 μL, 0.48 mmol). The suspension was reacted at 120° C., for 15 min in a microwave set at 70 watts. The resulting yellow suspension was diluted with ethyl acetate (50 mL) and the organic layer was then washed with H2O (2×15 mL), brine (10 mL), dried over MgSO4, and the solvent was removed by evaporation. The white solid was then purified by flash column chromatography (silica gel, elution with EtOAc:hexanes, 1:5) to yield 0.119 g (94%) of the title compound as a white solid. 1H NMR (CDCl3): 7.59 (dd, 1H, J=5.2 and 1.4 Hz), 7.47 (dd, 1H, J=8.3 and 1.7 Hz), 7.38 (dd, 1H, J=8.3 and 1.1 Hz), 7.27 (d, 1H, J=1.7 Hz), 7.10 (dd, 1H, J=5.2 and 1.4 Hz), 5.11 (t, 1H, J=5.0 Hz), 4.29 (q, 2H, J=7.1 Hz), 4.05 (d, 2H, J=5.2 Hz), 1.33 (t, 3H, J=7.1 Hz).

reactant | 2-chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenylamine | 0.320 mmol, 0.100 g | ClC1=C(C=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl)N | C12H7Cl2N3OS
reactant | ethanol | 1.3 mL | C(C)O | C2H6O
reactant | bromo ethylacetate | 1.44 mmol, 0.241 g | C(C)CC(=O)OBr | C4H7BrO2
reactant | triethylamine | 0.48 mmol, 67 μL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | {2-Chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenylamino}-acetic acid ethyl ester | 0.119 g, 94% | C(C)OC(CNC1=C(C=CC(=C1)C1=NOC(=N1)C=1SC=CC1Cl)Cl)=O | C16H13Cl2N3O3S
